US05571821
N-(3,4-Dimethyl-5-isoxazolyl)benzo[b]furan-2-sulfonamide was prepared, in the same manner as described in Example 34B, from 3,4-dimethyl-5-amino isoxazole (78 mg, 0.70 mmol) and benzo[b]furan-2-sulfonyl chloride (0.46 g, 2.1 mmol) Flash chromatography (30% ethyl acetate/hexanes) provided 0.186 g of a light yellow solid, which was treated with 31 mg of NaOH in 10 ml of methanol at 25° C. for 30 minutes. Recrystallization from CHCl3 /hexanes yielded a light tan solid (90 mg, 44% yield), m.p. 160.5°-163° C.

reactant | 3,4-dimethyl-5-amino isoxazole | 0.70 mmol, 78 mg | CC1=NOC(=C1C)N | C5H8N2O
reactant | benzo[b]furan-2-sulfonyl chloride | 2.1 mmol, 0.46 g | O1C2=C(C=C1S(=O)(=O)Cl)C=CC=C2 | C8H5ClO3S
product | N-(3,4-Dimethyl-5-isoxazolyl)benzo[b]furan-2-sulfonamide | CC1=NOC(=C1C)NS(=O)(=O)C1=CC2=C(O1)C=CC=C2 | C13H12N2O4S
